US07456282B2
Preparation of 2-amino-9-(2-bromoethyl)purine
17.92 g (0.1 mole) of 2-amino-9-(2-hydroxyethyl)purine was completely dissolved in 200 ml of 1,4-dioxane. The solution was added with 49.75 g (0.15 mole) of carbon tetrabromide and cooled below 5° C. To the cooled material, 39.34 g (0.15 mole) of triphenylphosphine was added, followed by stirring for 5 hours at room temperature. After completion of the reaction, 300 ml of water was added to the reaction product, which was then extracted four times with 500 ml portions of a mixed solution of chloroform and methanol (4:1). The organic layer was collected, and dried with anhydrous magnesium sulfate, followed by filtration and washing. The resulting filtrate was concentrated under reduced pressure, and crystallized from chloroform, 15.74 g (65%) of white 2-amino-9-(2-bromoethyl)purine.

reactant | 2-amino-9-(2-hydroxyethyl)purine | 0.1 mole, 17.92 g | NC1=NC=C2N=CN(C2=N1)CCO | C7H9N5O
reactant | carbon tetrabromide | 0.15 mole, 49.75 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.15 mole, 39.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 300 ml | O | H2O
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-amino-9-(2-bromoethyl)purine | NC1=NC=C2N=CN(C2=N1)CCBr | C7H8BrN5
